US20010009921A1
(iii) 4-{N-[1-(S)-(3-Chlorophenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}-N-propylbenzamide
This was prepared from 4-{N-[1-(S)-(3-chlorophenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}benzoic acid and n-propylamine in 77% yield according to a procedure similar to that described in Example 1 (iii).

reactant | 4-{N-[1-(S)-(3-chlorophenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}benzoic acid | ClC=1C=C(C=CC1)[C@@H](CN1C[C@H](CC1)OCOC)N(C)C1=CC=C(C(=O)O)C=C1 | C22H27ClN2O4
reactant | n-propylamine | C(CC)N | C3H9N
product | 4-{N-[1-(S)-(3-Chlorophenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}-N-propylbenzamide | 77% yield | ClC=1C=C(C=CC1)[C@@H](CN1C[C@H](CC1)OCOC)N(C)C1=CC=C(C(=O)NCCC)C=C1 | C25H34ClN3O3
